US08236808B2
Step 2: 3-(3-Chlorosulfonyl-4-methoxy-phenyl)-3-phenyl-propionic acid methyl ester
To a solution of 3-(4-methoxy-3-sulfo-phenyl)-3-phenyl-propionic acid methyl ester (850 mg, 2.43 mmol) in 1,3-dimethyl-2-imidazolidinone (25 mL) is added POCl3 (0.57 ml, 6.06 mmol) and pyridine (0.33 mL, 4.13 mmol). The reaction mixture is stirred at RT for 1 h. After this time, water (50 mL) is added and the reaction mixture is extracted with DCM (3×50 mL). The combined organic phases are washed with brine (30 mL) then dried over MgSO4, filtered and concentrated in vacuo to afford the title compound as an oil.

reactant | 3-(4-methoxy-3-sulfo-phenyl)-3-phenyl-propionic acid methyl ester | 2.43 mmol, 850 mg | COC(CC(C1=CC=CC=C1)C1=CC(=C(C=C1)OC)S(=O)(=O)O)=O | C17H18O6S
reactant | POCl3 | 6.06 mmol, 0.57 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 4.13 mmol, 0.33 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 50 mL | O | H2O
solvent | 1,3-dimethyl-2-imidazolidinone | 25 mL | CN1C(N(CC1)C)=O | C5H10N2O
product | 3-(3-Chlorosulfonyl-4-methoxy-phenyl)-3-phenyl-propionic acid methyl ester | COC(CC(C1=CC=CC=C1)C1=CC(=C(C=C1)OC)S(=O)(=O)Cl)=O | C17H17ClO5S
